US07488739B2
5-Methoxy-3,4-dihydro-2H-pyrrole and triethylamine were added to ethyl 3-oxo-3-(2,4,5-trifluorophenyl)propanoate, for stirring at 60° C. for 4 days, to obtain ethyl 3-oxo-2-pyrrolidin-2-ylidene-3-(2,4,5-trifluorophenyl)propanoate.

reactant | 5-Methoxy-3,4-dihydro-2H-pyrrole | COC=1CCCN1 | C5H9NO
reactant | ethyl 3-oxo-3-(2,4,5-trifluorophenyl)propanoate | O=C(CC(=O)OCC)C1=C(C=C(C(=C1)F)F)F | C11H9F3O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl 3-oxo-2-pyrrolidin-2-ylidene-3-(2,4,5-trifluorophenyl)propanoate | O=C(C(C(=O)OCC)=C1NCCC1)C1=C(C=C(C(=C1)F)F)F | C15H14F3NO3
